US06686353B1
Preparation of 1-[4-(Dimethylaminomethyl)benzoyl]-4-(3,3-diphenylpropyl)homopiperazine (Compound No. 202)
The resulting 1-(3,3-diphenylpropyl)homopiperazine was dissolved in 3 mL of toluene under argon, followed by adding 0.65 mL of a 15% trimethylaluminum solution in hexane. The mixture was stirred at room temperature for 15 minutes, mixed with 187 mg of methyl 4-(dimethylaminomethyl)benzoate, stirred at 60° C. for 22 hours. The mixture was cooled to room temperature, mixed with 2N hydrochloric acid, and stirred. 20 mL of aqueous 2N sodium hydroxide was added and the mixture was extracted with 20 mL×2 of ethyl acetate. The organic layers were combined, washed with 20 mL of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, ethyl acetate/methanol 6:4) to obtain 234 mg of the titled compound. This was treated with a hydrogen chloride solution in ether, the solvent was removed under reduced pressure and the residue was dried to give the hydrochloride salt of the titled compound.

reactant | 1-(3,3-diphenylpropyl)homopiperazine | C1(=CC=CC=C1)C(CCN1CCNCCC1)C1=CC=CC=C1 | C20H26N2
reactant | trimethylaluminum | C[Al](C)C
reactant | methyl 4-(dimethylaminomethyl)benzoate | 187 mg | CN(C)CC1=CC=C(C(=O)OC)C=C1 | C11H15NO2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 1-[4-(Dimethylaminomethyl)benzoyl]-4-(3,3-diphenylpropyl)homopiperazine | 234 mg | CN(C)CC1=CC=C(C(=O)N2CCN(CCC2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C30H37N3O
